US05985909
(c) 3,3-Di(methoxycarbonyl)-6-nitro-2-indolone
Triethylamine (8.64 mL, 62 mmol) was added to a solution of dimethyl (2-carboxy-4-nitrophenyl)malonate (18.43 g, 62 mmol) and diphenylphosphoryl azide (DPPA, 13.4 mL, 62 mmol) and the mixture stirred at reflux for 15 h. The orange-brown solution was cooled, concentrated to a small volume, and the solid filtered off, washing with 2N HCl then water. The solid was triturated with hot MeOH (ca. 80 mL) to give title compound as a pale yellow powder (15.4 g, 84%), mp 234-239° C. (dec.). 1H NMR ((CD3)2SO) δ11.43 (br s, 1H, NH), 7.97 (dd, J=8.3, 2.1 Hz, 1H, H-5), 7.66 (d, J=8.3 Hz, 1H, H-4), 7.62 (d, J=2.1 Hz, 1H, H-7), 3.76 (s, 6H, CO2Me); 13C NMR δ167.4, 163.9 (CO2Me, CONH), 148.4, 143.7, 130.4 (C-6,8,9), 126.7, 117.7, 104.6 (C-4,5,7), 65.7 (C-3), 54.0 (OMe); IR (KBr) 1767 (CONH), 1736 (CO2Me), 1524 (NO2), 1348 (NO2), 1246 cm-1; MS (DEI) 294 (85%, M+), 250 (100%, M--CO2); HRMS calcd. for C12H10N2O7 294.04880, found 294.04851. Anal. Calculated for C12H10N2O: C, 49.0; H, 3.4; N, 9.5. Found: C, 49.1; H, 3.4; N, 9.6%.

reactant | Triethylamine | 62 mmol, 8.64 mL | C(C)N(CC)CC | C6H15N
reactant | dimethyl (2-carboxy-4-nitrophenyl)malonate | 62 mmol, 18.43 g | C(=O)(O)C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C12H11NO8
reactant | diphenylphosphoryl azide | 62 mmol, 13.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | 3,3-Di(methoxycarbonyl)-6-nitro-2-indolone | 15.4 g, 84% | COC(=O)C1(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)C(=O)OC | C12H10N2O7
